US06740777B2
A deoxygenated mixture of 2-(2-acetylsulfanyl-ethyl)-6-methoxycarbonylmethyl-benzoic acid methyl ester (0.555 g, 1.77 mmol) and 6 N KOH (3 mL) in EtOH (7 mL) was heated at reflux for 18 h. After allowing to cool to rt, the mixture was partitioned between 1 N HCl (75 mL) and EtOAc (100 mL). The organic layer was washed with H2O (100 mL), brine (100 mL), dried over MgSO4 and concentrated in vacuo. The crude product was dissolved in ether (100 mL), filtered to remove some unidentified solid material, and concentrated to give 2-carboxymethyl-6-(2-mercapto-ethyl)-benzoic acid as a white solid (0.310 g, 73%): 1H NMR (CDCl3) δ1.37 (t, J=8.2 Hz, 1H), 2.76 (m, 2H), 3.06 (m, 2H), 3.90 (s, 2H), 7.10 (d, J=7.6 Hz, 1H), 7.21 (d, J=6.9 Hz, 1H), 7.34 (t, J=7.8 Hz, 1H): 13C NMR (CDCl3) δ27.25, 40.43, 41.83, 131.58, 131.64, 132.45, 132.55, 134.66, 141.41, 176.14, 179.40. Anal. Calcd for C, H11H12O4S: C, 54.99; H, 5.03; S, 13.35. Found: C, 55.20; H, 5.26; S, 13.32.

reactant | 2-(2-acetylsulfanyl-ethyl)-6-methoxycarbonylmethyl-benzoic acid methyl ester | 1.77 mmol, 0.555 g | COC(C1=C(C=CC=C1CC(=O)OC)CCSC(C)=O)=O | C15H18O5S
reactant | KOH | 6 N, 3 mL | [OH-].[K+]
solvent | EtOH | 7 mL | CCO | C2H6O
product | 2-carboxymethyl-6-(2-mercapto-ethyl)-benzoic acid | 0.310 g, 73% | C(=O)(O)CC1=C(C(=O)O)C(=CC=C1)CCS | C11H12O4S
